US06596773B2
b) 1-[5-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-pyridin-2-yl]-4-methyl-piperazine
2-Chloro-5-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-pyridine hydrochloride was transformed into its free base by dissolving 8.0 g (32 mmol) in saturated sodium bicarbonate solution and extracting the base into dichloromethane. The solvent was evaporated and the residue was dissolved in toluene. After addition of 11.35 g (113 mmol) N-methylpiperazine, the mixture was refluxed for 36 h. After cooling to room temperature water (50 ml) and ethyl acetate (150 ml) were added and the aqueous layer was extracted with ethyl acetate (150 ml). The combined organic layers were extracted two times with 1 N hydrochloric acid, the acidic aqueous layer was made alkaline with 28% sodium hydroxide solution and extracted two times with dichloromethane. The organic layer was dried (magnesium sulfate) and evaporated. The residue was crystallized from ethyl acetate/hexane to yield 6.0 g (67%) of a white crystalline compound.

reactant | 2-Chloro-5-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-pyridine hydrochloride | Cl.ClC1=NC=C(C=C1)C=1OCC(N1)(C)C
reactant | N-methylpiperazine | 113 mmol, 11.35 g | CN1CCNCC1 | C5H12N2
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-[5-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-pyridin-2-yl]-4-methyl-piperazine | 6.0 g, 67% | CC1(N=C(OC1)C=1C=CC(=NC1)N1CCN(CC1)C)C | C15H22N4O
